US06258829B1
Methyl 8-hydroxy-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate
Ethyl 8-acetoxy-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate (6.12 g, 22.1 mmol) was dissolved in ethanol (30.0 ml), and the solution was mixed with potassium carbonate (3.68 g) and stirred at from 0° C. to room temperature for 14 hours. The solvent was evaporated under reduced pressure, and the thus obtained residue was mixed with water and ethyl acetate and extracted with ethyl acetate. The thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (ether:hexane=1:1) to obtain the title compound (4.59 g, 93.9%) as white amorphous.

reactant | Ethyl 8-acetoxy-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate | 22.1 mmol, 6.12 g | C(C)(=O)OC1CCCC=2C1=NC(=C(C2)C(=O)OCC)C | C15H19NO4
reactant | potassium carbonate | 3.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30.0 ml | C(C)O | C2H6O
product | Methyl 8-hydroxy-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate | 4.59 g, 93.9% | OC1CCCC=2C1=NC(=C(C2)C(=O)OC)C | C12H15NO3
